US06562978B1
1-tert-Butoxycarbonyl-4-(1-methylimidazol-2-ylthio)piperidine
By a similar manner to Reference Example 35, 1-tert-butoxycarbonyl-4-hydroxypiperidine (1.01 g, 5.0 mmol) was reacted with 2-mercapto-1-methylimidazole (0.68 g, 6.0 mmol) to give the titled compound as pale yellow oily substance (1.04 g, 70%).

reactant | 1-tert-butoxycarbonyl-4-hydroxypiperidine | 5.0 mmol, 1.01 g | C(C)(C)(C)OC(=O)N1CCC(CC1)O | C10H19NO3
reactant | 2-mercapto-1-methylimidazole | 6.0 mmol, 0.68 g | SC=1N(C=CN1)C | C4H6N2S
product | 1-tert-Butoxycarbonyl-4-(1-methylimidazol-2-ylthio)piperidine | C(C)(C)(C)OC(=O)N1CCC(CC1)SC=1N(C=CN1)C | C14H23N3O2S
